US07071189B2
9.32 g (70 mmol) of 2-aminobenzimidazole dissolved in DMF (300 ml) was added and reacted with 60% sodium hydride (2.80 g, 70 mmol) at room temperature for 30 minutes. This suspension was added to a solution of 14.3 g (50 mmol) of 2-chloro-4,6-dimorpholino-1,3,5-triazine dissolved in DMF (200 ml) and stirred at room temperature for 2 hours. The reaction solution was poured into water and the resulting precipitates were washed with water and methanol to obtain 17.7 g (yield: 93%) of 2-(2-aminobenz-imidazol-1-yl)-4,6-dimorpholino-1,3,5-triazine. (2) 0.38 g (1.0 mmol) of 2-(2-aminobenzimidazol-1-yl)-4,6-dimorpholino-1,3,5-triazine and 0.24 g (4.0 mmol) of acetic acid were added to and further 0.83 g (4.0 mmol) of DCC was added to chloroform (5 ml) and stirred at room temperature for 4 hours. The reaction solution was poured into water and extracted with ethyl acetate. The separated organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography to obtain 0.31 g (yield: 73%) of the titled compound as colorless crystals.

reactant | 2-aminobenzimidazole | 70 mmol, 9.32 g | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | sodium hydride | 70 mmol, 2.80 g | [H-].[Na+]
reactant | 2-chloro-4,6-dimorpholino-1,3,5-triazine | 50 mmol, 14.3 g | ClC1=NC(=NC(=N1)N1CCOCC1)N1CCOCC1 | C11H16ClN5O2
reactant | water | O | H2O
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2-(2-aminobenz-imidazol-1-yl)-4,6-dimorpholino-1,3,5-triazine | 17.7 g, yield: 93% | NC1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCOCC1)C=CC=C2 | C18H22N8O2
